US08058313B2
bis((E)-4-Bromostyrylsulfonyl)methane
A solution of 4-bromobenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 82% yield. m.p. 213-215° C.

reactant | 4-bromobenzaldehyde | 2 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-4-Bromostyrylsulfonyl)methane | 82% yield | BrC1=CC=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=CC=C(C=C2)Br)C=C1 | C17H14Br2O4S2
